US07582772B2
A solution of benzhydrol (13.5 g, 73.3 mmol) and acetonitrile (56 mL) was added over 1 h to a warm (80° C.), stirred solution of 2-chloro-4-iodoaniline (16 g, 63.1 mmol), benzenesulfonic acid (0.323 g, 2.0 mmol) and acetonitrile (53 mL). The solution was maintained at 80° C. for an additional 2.5 h. The mixture was allowed to cool to room temperature. Water (31 mL) was added over 1 h to the stirred mixture. The mixture was stirred for 2 h at room temperature. The solid product was collected by filtration. The solid product was combined with methanol (67 mL) and warmed to reflux for 30 m. The mixture was allowed to cool to room temperature. The purified product was collected by filtration, washed with methanol (2×10 mL) and vacuum dried to give 22.3 g of benzhydryl-(4-chloro-2-iodo-phenyl)-amine with 99% purity (as determined by HPLC). Mp 107-110.

reactant | benzhydrol | 73.3 mmol, 13.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | acetonitrile | 56 mL | C(C)#N | C2H3N
reactant | 2-chloro-4-iodoaniline | 63.1 mmol, 16 g | ClC1=C(N)C=CC(=C1)I | C6H5ClIN
reactant | acetonitrile | 53 mL | C(C)#N | C2H3N
catalyst | benzenesulfonic acid | 2.0 mmol, 0.323 g | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
solvent | Water | 31 mL | O | H2O
product | benzhydryl-(4-chloro-2-iodo-phenyl)-amine | 22.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)NC1=C(C=C(C=C1)Cl)I | C19H15ClIN
